US07776877B2
To 4-chloro-2-[1,2,3]triazolo[4,5-b]pyridin-1-yl-phenylamine (153.5 mg, 0.626 mmol) in pyridine (2 mL) was added 4-chlorosulfonyl-2-fluoro-benzoic acid ethyl ester (200 mg, 0.752 mmol) followed by methanesulfonyl chloride (32 μL, 0.47 mmol) at 0° C. under a nitrogen atmosphere. The resultant reaction mixture was allowed to warm to room temperature and stirred for overnight. The following day, reaction mixture was diluted with EtOAc (25 mL), washed with 2N HCl (2×15 mL), dried (Na2SO4) and evaporated. The resulting bis-sulfonamides crude mixture was treated with 1 N TBAF (in THF, 2 mL) at room temperature for 1 hour. The reaction mixture was then diluted with EtOAc (25 mL), washed with 2 N HCl (2×15 mL), water (10 mL), brine (10 mL), dried (Na2SO4) and evaporated. The resulting crude product was purified by SiO2 chromatography using 50→100% EtOAc in hexanes solvent system to obtain 4-(4-chloro-2-[1,2,3]triazolo[4,5-b]pyridin-1-yl-phenylsulfamoyl)-2-fluoro-benzoic acid ethyl ester. Step 2: The title compound was prepared via conversion from its ethyl ester according to general procedure Y: MS (ES) M+Na expected 484.0, found 484.0.

reactant | 4-chloro-2-[1,2,3]triazolo[4,5-b]pyridin-1-yl-phenylamine | 0.626 mmol, 153.5 mg | ClC1=CC(=C(C=C1)N)N1N=NC2=NC=CC=C21 | C11H8ClN5
reactant | 4-chlorosulfonyl-2-fluoro-benzoic acid ethyl ester | 0.752 mmol, 200 mg | C(C)OC(C1=C(C=C(C=C1)S(=O)(=O)Cl)F)=O | C9H8ClFO4S
reactant | methanesulfonyl chloride | 0.47 mmol, 32 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-(4-chloro-2-[1,2,3]triazolo[4,5-b]pyridin-1-yl-phenylsulfamoyl)-2-fluoro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)S(NC1=C(C=C(C=C1)Cl)N1N=NC2=NC=CC=C21)(=O)=O)F)=O | C20H15ClFN5O4S
